* C:\users\alex\Documents\LTspice\zns.asc
* Generated by LTspice 26.0.1 for Windows.
.SUBCKT ZVS in GND outA outB
CRS outB outA 6.5µ
LPa in outA 100µ Rser=1m
LPb in outB 100µ Rser=1m
Ra in N001 470
Rb in N002 470
M§Qb outB N001 0 0 IRF640N
D1 N002 outB 1N5817
D2 N001 outA 1N5817
M§Qa outA N002 0 0 IRF640N
.model D D
.lib C:\users\alex\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\alex\AppData\Local\LTspice\lib\cmp\standard.mos
* ZVS Circuito
.model IRF640N NMOS (VTO=4 KP=18 RS=0.04 RD=0.04 RDS=1e6 CGSO=1.2n CGDO=0.45n CBD=0.35n CBS=0.35n PB=0.8 RG=2 LAMBDA=0.015)
.backanno
.ENDS ZVS
